US06159964
a) 2-(4-Hydroxybut-1-ylamino)pyridine-N-oxide
A mixture of 4-amino-1-butanol (1.76 g, 20 mmol), 2-chloropyridine N-oxide hydrochloride (3.98 g, 24 mmol), and NaHCO3 (8.40 g, 100 mmol) in tert-amyl alcohol (50 mL) is heated at reflux under argon. After 48 h, the reaction is cooled, diluted with EtOH, filtered, and concentrated. The residue is reconcentrated from toluene, and chromatographed (silica gel) to give the title compound.

reactant | 4-amino-1-butanol | 20 mmol, 1.76 g | NCCCCO | C4H11NO
reactant | 2-chloropyridine N-oxide hydrochloride | 24 mmol, 3.98 g | Cl.ClC1=[N+](C=CC=C1)[O-]
reactant | NaHCO3 | 100 mmol, 8.40 g | C(=O)(O)[O-].[Na+]
solvent | tert-amyl alcohol | 50 mL | C(C)(C)(CC)O | C5H12O
solvent | EtOH | CCO | C2H6O
product | 2-(4-Hydroxybut-1-ylamino)pyridine-N-oxide | OCCCCNC1=[N+](C=CC=C1)[O-] | C9H14N2O2
